US04857507
4(S)-Isobutyl-5(S)-[2-(phenethylmercapto)ethyl]-2-oxazolidinone
To a 0° C. solution of 4(S)-isobutyl-5(S)-(2-mesyloxyethyl)-2-oxazolidinone (500 mg, 1.88 mmol) and phenethyl mercaptan (273 mg, 1.98 mmol) in THF (6 mL) was added NaH (95 mg, 1.98 mmol of a 50% dispersion) all at once. The reaction was stirred for 3 hours at room temperature and then distributed between methylene chloride and brine solution. The organic layer was washed with brine solution, dried over MgSO4 and evaporated. The residue was chromatographed on silica gel eluting with 65/35 hexane=ethyl acetate to give 570 mg (98%) of product as an oil.

reactant | 4(S)-isobutyl-5(S)-(2-mesyloxyethyl)-2-oxazolidinone | 1.88 mmol, 500 mg | C(C(C)C)[C@@H]1NC(O[C@H]1CCOS(=O)(=O)C)=O | C10H19NO5S
reactant | phenethyl mercaptan | 1.98 mmol, 273 mg | C(CC1=CC=CC=C1)S | C8H10S
reactant | NaH | [H-].[Na+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 4(S)-Isobutyl-5(S)-[2-(phenethylmercapto)ethyl]-2-oxazolidinone | 570 mg, 98% | C(C(C)C)[C@@H]1NC(O[C@H]1CCSCCC1=CC=CC=C1)=O | C17H25NO2S
